US05455253
9-(3-Chlorophenyl)-3,4,5,6,7,8,9,10-octahydro-1(2H)-acridinone.
To a stirred 70° C. mixture of 9-(3-chlorophenyl)-3,4,6,7,9,10-hexahydro-1,8(2H,5H)-acridinedione (5.0 g), ethanol (120 mL) and pyridine (40 mL) was added sodium borohydride (7.5 g) in two portions over six hours. The solvent was removed; the resulting yellow solid washed well with water and dried in vacuo to provide the title compound (5.0 g) as a yellow solid. Recrystallization from ethanol returned analytically pure material, mp 249°-250° C.; NMR: 1.41-1.51 (m,3, CH2), 1.60-1.88 (m,5, CH2), 2.09-2.15 (m,4, CH2), 2.39-2.45 (m,2, CH2), 4.17 (s,1, CH), 7.09-7.15 (m,3, Ar), 7.21-7.26 (m,1, Ar), 8.43 (s,1, NH). (CI, CH4) MS: m/z=314(M+1). Analysis for C19H20ClNO: Calculated C, 72.72; H, 6.37; N, 4.46; Found: C, 72.55; H, 6.48; N, 4.49.

reactant | 9-(3-chlorophenyl)-3,4,6,7,9,10-hexahydro-1,8(2H,5H)-acridinedione | 5.0 g | ClC=1C=C(C=CC1)C1C=2C(CCCC2NC=2CCCC(C12)=O)=O | C19H18ClNO2
reactant | ethanol | 120 mL | C(C)O | C2H6O
reactant | sodium borohydride | 7.5 g | [BH4-].[Na+]
solvent | pyridine | 40 mL | N1=CC=CC=C1 | C5H5N
product | 9-(3-Chlorophenyl)-3,4,5,6,7,8,9,10-octahydro-1(2H)-acridinone | 5.0 g | ClC=1C=C(C=CC1)C1C=2CCCCC2NC=2CCCC(C12)=O | C19H20ClNO
